US07015218B1
1-(4-Chlorophenyl)-N-[3-cyano-4-(4-piperazinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide ½ hydrate
By the reaction and treatment in the same manner as in Example 151 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.66 g) and 5-amino-2-[4-(4-tert-butoxycarbonylpiperazin-1-yl)piperidin-1-yl]benzonitrile (1.0 g), the title compound (0.54 g) was obtained, melting point: 226° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.66 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-[4-(4-tert-butoxycarbonylpiperazin-1-yl)piperidin-1-yl]benzonitrile | 1.0 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H31N5O2
product | 1-(4-Chlorophenyl)-N-[3-cyano-4-(4-piperazinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide | 0.54 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCNCC1)C#N | C27H30ClN7O
